US08623869B2
Step 4: tert-Butyl N-[1-[3-(hydroxymethyl)phenyl]ethyl]carbamate
3-[1-(tert-Butoxycarbonylamino)ethyl]benzoic acid (7.57 g, 28.53 mmol) was dissolved in anhydrous THF (45 mL) and 2M borane-dimethylsulfide in THF (42.8 mL, 85.6 mmol) was added dropwise at ambient temperature. The reaction was stirred at this temperature for 3 hours then cooled to 0° C. and quenched with MeOH. The solvents were removed under reduced pressure and the resulting residue partitioned between 1M HCl and ethyl acetate. The organic layer was washed with saturated sodium bicarbonate (×1) and brine (×1), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion™ eluting with 0 to 30% EtOAc/petroleum ether) to give the sub-title compound as a white solid (4.91 g, 68% Yield). 1H NMR (400 MHz, DMSO) δ 1.28 (d, 3H), 1.36 (s, 9H), 4.47 (d, 2H), 4.54-4.64 (m, 1H), 5.17 (t, 1H), 7.14 (d, 2H), 7.23 (d, 2H) and 7.38 (d, 1H) ppm; MS (ES+) 252.3.

reactant | 3-[1-(tert-Butoxycarbonylamino)ethyl]benzoic acid | 28.53 mmol, 7.57 g | C(C)(C)(C)OC(=O)NC(C)C=1C=C(C(=O)O)C=CC1 | C14H19NO4
reactant | borane dimethylsulfide | 2M | B.CSC
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 85.6 mmol, 42.8 mL | C1CCOC1 | C4H8O
product | tert-Butyl N-[1-[3-(hydroxymethyl)phenyl]ethyl]carbamate | 4.91 g, 68% Yield | OCC=1C=C(C=CC1)C(C)NC(OC(C)(C)C)=O | C14H21NO3
